US08633186B2
2-(6-hydroxyhexyloxy)-6-nitrobenzonitrile
Prepared as in Example 215c from hexane-1,6-diol and 2,6-dinitrobenzonitrile in 88% yield as a pale yellow solid. MS 265 (MH+).

reactant | hexane-1,6-diol | C(CCCCCO)O | C6H14O2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(6-hydroxyhexyloxy)-6-nitrobenzonitrile | 88% yield | OCCCCCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C13H16N2O4
